US07553973B2
Step 6: 4-(4-Fluorophenyl)-6-methyl-2-oxo-2H-chromene-7-carboxylic acid
To a solution of methyl 4-(4-fluorophenyl)-6-methyl-2-oxo-2H-chromene-7-carboxylate (0.722 g, 2.31 mmol) in THF (23 mL) was added a 1 N solution of LiOH (11.6 mL, 11.6 mmol), and the mixture was heated at 65° C. for 16 h. At room temperature, the mixture was neutralized with 1 N HCl and concentrated. The residue was stirred with THF (25 mL) and 2 N HCl (50 mL) for 16 h. The precipitate produced was collected by filtration, rinsed with water and dried, affording the title compound that was used without further purification. 1H NMR (500 MHz, DMSO-d6): δ 13.40 (br s, 1H), 7.80 (s, 1H), 7.64 (m, 2H), 7.44 (m, 2H), 7.32 (s, 1H), 6.54 (s, 1H), 2.48 (s, 3H).

reactant | methyl 4-(4-fluorophenyl)-6-methyl-2-oxo-2H-chromene-7-carboxylate | 2.31 mmol, 0.722 g | FC1=CC=C(C=C1)C1=CC(OC2=CC(=C(C=C12)C)C(=O)OC)=O | C18H13FO4
reactant | LiOH | 11.6 mmol, 11.6 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 23 mL | C1CCOC1 | C4H8O
product | 4-(4-Fluorophenyl)-6-methyl-2-oxo-2H-chromene-7-carboxylic acid | FC1=CC=C(C=C1)C1=CC(OC2=CC(=C(C=C12)C)C(=O)O)=O | C17H11FO4
